US08957068B2
A solution of 3-(2-fluoropyrimidin-4-yl)oxazolidin-2-one (100 mg, 0.444 mmol), (3-(p-tolyl)-1,2,4-oxadiazol-5-yl)methanamine (84 mg, 0.444 mmol, 1.0 equiv), and TEA (0.186 mL, 1.332 mmol, 3.0 equiv) in butan-1-ol (2 mL) was heated at 100° C. for 90 min. Addition of propan-1-ol (1 ml) and heated at 150° C. for 60 min. The reaction mixture was concentrated in vacuo. Flash column (silica, 24 g) eluting w/0-30% EtOAc/DCM afforded (S)-4-Isopropyl-3-{2-[(3-p-tolyl-[1,2,4]oxadiazol-5-ylmethyl)-amino]-pyrimidin-4-yl}-oxazolidin-2-one (95 mg, white foam) in 54.2% yield. HRMS(B) m/z 394.1753 2.38 Min.

reactant | 3-(2-fluoropyrimidin-4-yl)oxazolidin-2-one | 0.444 mmol, 100 mg | FC1=NC=CC(=N1)N1C(OCC1)=O | C7H6FN3O2
reactant | (3-(p-tolyl)-1,2,4-oxadiazol-5-yl)methanamine | 0.444 mmol, 84 mg, 1.0 equiv | C1(=CC=C(C=C1)C1=NOC(=N1)CN)C | C10H11N3O
reactant | propan-1-ol | 1 ml | C(CC)O | C3H8O
solvent | butan-1-ol | 2 mL | C(CCC)O | C4H10O
product | (S)-4-Isopropyl-3-{2-[(3-p-tolyl-[1,2,4]oxadiazol-5-ylmethyl)-amino]-pyrimidin-4-yl}-oxazolidin-2-one | 95 mg, 54.2% yield | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)NCC1=NC(=NO1)C1=CC=C(C=C1)C | C20H22N6O3
